US07358268B2
2-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-3H-imidazole-4-carboxylic acid methyl ester (460 mg) and lithium hydroxide monohydrate (450 mg) in THF (3 mL) and water (1 mL) were stirred at 58° C. for 10 h. After cooling the mixture was carefully neutralized by the addition of 2 N HCl and concentrated to give crude 2-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-3H-imidazole-4-carboxylic acid. Yield: 905 mg.

reactant | 2-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-3H-imidazole-4-carboxylic acid methyl ester | 460 mg | COC(=O)C=1NC(=NC1)COCCOCCOC | C11H18N2O5
reactant | lithium hydroxide monohydrate | 450 mg | O.[OH-].[Li+]
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 2-[2-(2-Methoxy-ethoxy)-ethoxymethyl]-3H-imidazole-4-carboxylic acid | COCCOCCOCC1=NC=C(N1)C(=O)O | C10H16N2O5
